US08008303B2
5′-(Cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
A mixture of 5′-(cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid (50 mg), 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine (38 mg), N-methylmorpholine (0.03 ml), 1-hydroxybenzotriazole (21 mg) and 1-ethyl-3-(3-(dimethylaminopropyl)carbodiimide hydrochloride (30 mg) in dry DMF (1 ml) was stirred at 20 C for 18 h. The mixture was then added to water and the resulting colourless precipitate collected by filtration and dried (38 mg).

reactant | 5′-(cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid | 50 mg | C1(CC1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)OC | C18H17NO4
reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine | 38 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | N-methylmorpholine | 0.03 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 21 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(dimethylaminopropyl)carbodiimide hydrochloride | 30 mg | Cl.CN(C)CCCN=C=N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5′-(Cyclopropanecarbonyl-amino)-2′-methoxy-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CC1)OC)=O | C29H31N3O5S
